US07622461B2
5,10-Dihydro-dibenzo[b,e][1,4]diazepine-11-one (160FE15A)
2-Fluoronitrobenzene (847 g, 6 mmol) and 2-aminobenzoic acid (274 mg, 2.0 mmol) were reacted according to GP7 to give 130 mg of the title compound (160FE15A).

reactant | 2-Fluoronitrobenzene | 6 mmol, 847 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-aminobenzoic acid | 2.0 mmol, 274 mg | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
product | 5,10-Dihydro-dibenzo[b,e][1,4]diazepine-11-one | 130 mg | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
